US04094877
A mixture of 2-(4-(diethylamino)benzoyl)-3,4,5,6-tetrachlorobenzoic acid (8.70 g.), N,N,N',N'-tetramethyl-m-phenylenediamine (3.61 g.) and acetic anhydride (5 ml.) was heated (to 90° C.). Addition of methanol (10 ml.) and slurrying the resulting product with methanol afforded 3-(2,4-bis(dimethylamino)phenyl)-3-(4-diethylamino)phenyl)-4,5,6,7-tetrachlorophthalide (I: X = (CH3)2N, Y2 = H, Y4 = (CH3CH2)2N, Z4 = Z5 = Z6 = Z7 = Cl) (5.60 g., m.p. 206°-207.5° C.).

reactant | 2-(4-(diethylamino)benzoyl)-3,4,5,6-tetrachlorobenzoic acid | 8.70 g | C(C)N(C1=CC=C(C(=O)C2=C(C(=O)O)C(=C(C(=C2Cl)Cl)Cl)Cl)C=C1)CC | C18H15Cl4NO3
reactant | N,N,N',N'-tetramethyl-m-phenylenediamine | 3.61 g | CN(C1=CC(=CC=C1)N(C)C)C | C10H16N2
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | methanol | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 4,5,6,7-tetrachlorophthalide | 5.60 g | ClC1=C2COC(=O)C2=C(C(=C1Cl)Cl)Cl | C8H2Cl4O2
